US09226922B2
To (R)-tert-butyl 1-(2-fluoro-6-methoxybenzyl)piperidin-3-ylcarbamate (3.52 g, 10.40 mmol) was added methanolic HCl (3 N, 50 mL) and the reaction mixture was heated to reflux for 3 h. The volatiles were removed in vacuo to afford (R)-1-(2-fluoro-6-methoxybenzyl)-piperidin-3-amine hydrochloride. MS ESI calc'd. For C13H19FN2O [M+1]+ 239. found 239.

reactant | (R)-tert-butyl 1-(2-fluoro-6-methoxybenzyl)piperidin-3-ylcarbamate | 10.40 mmol, 3.52 g | FC1=C(CN2C[C@@H](CCC2)NC(OC(C)(C)C)=O)C(=CC=C1)OC | C18H27FN2O3
reactant | HCl | 3 N, 50 mL | Cl | ClH
product | (R)-1-(2-fluoro-6-methoxybenzyl)-piperidin-3-amine hydrochloride | Cl.FC1=C(CN2C[C@@H](CCC2)N)C(=CC=C1)OC | InChI=1S/C13H19FN2O.ClH/c1-17-13-6-2-5-12(14)11(13)9-16-7-3-4-10(15)8-16;/h2,5-6,10H,3-4,7-9,15H2,1H3;1H/t10-;/m1./s1
